US09056859B2
Step B: (6-oxo-6H-benzo[c]chromen-9-yl)acetaldehyde
A solution of 9-methyl-6H-benzo[c]chromen-6-one (100 mg, 0.476 mmol) in dry DMF (2378 μl) Was treated with TERT-BUTOXY BIS(DIMETHYLAMINO)METHANE (99 mg, 0.571 mmol) at 80° C. in a sealed tube for one hour. The solution turned a deep red color and was cooled, diluted with 2M HCl and stirred for 20 minutes. The solution was then extracted with DCM, the combind orgainc layers were dried, filtered and concentrated with out heat. Crude (6-oxo-6H-benzo[c]chromen-9-yl)acetaldehyde was used without further purification. LC-MS (IE, m/z): 239 [M+1]+.

reactant | 9-methyl-6H-benzo[c]chromen-6-one | 0.476 mmol, 100 mg | CC1=CC2=C(C(OC3=CC=CC=C23)=O)C=C1 | C14H10O2
reactant | TERT-BUTOXY BIS(DIMETHYLAMINO)METHANE | 0.571 mmol, 99 mg | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 2378 μl | CN(C)C=O | C3H7NO
solvent | HCl | 2M | Cl | ClH
product | (6-oxo-6H-benzo[c]chromen-9-yl)acetaldehyde | O=C1OC2=CC=CC=C2C2=C1C=CC(=C2)CC=O | C15H10O3
